US04554012
A mixture of 2.01 g of N-(6-methoxy-2-pyridyl)-N-methylcarbamoylchloride, 1.36 g of 4-isopropylphenol, and 1.38 g of anhydrous potassium carbonate in 50 ml of methyl ethyl ketone was refluxed for 5 hours. After the reaction mixture was cooled to room temperature, it was poured into cold water and the product was extracted with benzene. The benzene solution, successively washed with water and brine, was dried over anhydrous magnesium sulfate. The residue obtained by the removal of benzene under reduced pressure was chromatographed through silica gel column using benzene as an eluent to give 2.56 g of pure 4-isopropylphenyl N-(6-methoxy-2-pyridyl)-N-methylcarbamate as solid in the yield of 85%. A part of the solid was recrystallized from hexane and crystals having melting point of 64° to 65° C. were obtained.

reactant | N-(6-methoxy-2-pyridyl)-N-methylcarbamoylchloride | 2.01 g | COC1=CC=CC(=N1)N(C(=O)Cl)C | C8H9ClN2O2
reactant | 4-isopropylphenol | 1.36 g | C(C)(C)C1=CC=C(C=C1)O | C9H12O
reactant | potassium carbonate | 1.38 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | methyl ethyl ketone | 50 ml | C(C)C(=O)C | C4H8O
product | 4-isopropylphenyl N-(6-methoxy-2-pyridyl)-N-methylcarbamate | 2.56 g, yield of 85% | COC1=CC=CC(=N1)N(C(OC1=CC=C(C=C1)C(C)C)=O)C | C17H20N2O3
